US04331666
6-chloro-8-carboxy-tetrazolo[1,5-b]pyridazine
To an ice-cold suspension of 3-hydrazino-4-carboxy-6-chloro-pyridazine (1.88 g; 0.01 mole) in 15% acetic acid, a solution of sodium nitrite (0.70 g) in water (5 ml) was added dropwise. After stirring for one hour at 5°-10° C. the separated precipitate was filtered, washed with anhydrous ethanol. The solid was suspended in 2 N HCl, the mixture was stirred for 30 minutes, the solid was stirred off, washed with cold water and dried under vacuum at 70° C. to give 1.73 g (87%) of the title compound, m.p. 225° C.

reactant | 3-hydrazino-4-carboxy-6-chloro-pyridazine | 0.01 mole, 1.88 g | N(N)C=1N=NC(=CC1C(=O)O)Cl | C5H5ClN4O2
reactant | sodium nitrite | 0.70 g | N(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 6-chloro-8-carboxy-tetrazolo[1,5-b]pyridazine | 1.73 g, 87% | ClC=1C=C(C=2N(N1)N=NN2)C(=O)O | C5H2ClN5O2
